US08247610B2
a) 4-Methyl-2-{5-[(3-methyl-butyl)-(4-trifluoromethyl-benzyl)-amino]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid methyl ester
Following the procedure of Example 39, step (a), reaction of 4-Methyl-2-[4′-trifluoromethyl-5-(4-trifluoromethyl-benzylamino)-biphenyl-3-yl]-pentanoic acid methyl ester, compound 44a with isovaleraldehyde gave the title compound; Calcd.MW 593.66. Found MH+ 594.3.

reactant | 4-Methyl-2-[4′-trifluoromethyl-5-(4-trifluoromethyl-benzylamino)-biphenyl-3-yl]-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)NCC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C28H27F6NO2
reactant | isovaleraldehyde | C(CC(C)C)=O | C5H10O
product | 4-Methyl-2-{5-[(3-methyl-butyl)-(4-trifluoromethyl-benzyl)-amino]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)N(CC1=CC=C(C=C1)C(F)(F)F)CCC(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C33H37F6NO2
